US07470680B2
tert-butyl 4-(4-cyano-2-oxo-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate.
tert-Butyl 4-(4-carbamoyl-2-oxo-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate (175 mg, 0.564 mmol) was suspended in pyridine (3.0 mL). Phosphorus oxychloride (53 μL, 0.569 mmol) was added to the mixture drop-wise. Mixture stirred at ambient temperature for 30 minutes. Reaction was quenched with the drop-wise addition of water. Material was extracted twice with ethyl acetate and the aqueous phase was discarded. Material was washed successively with 1N hydrochloric acid brine and the aqueous phases were discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Silica gel chromatography eluting ethyl acetate-hexanes afforded the title compound as white solid in 29% yield. MS (M−H)−=291.1.

reactant | tert-Butyl 4-(4-carbamoyl-2-oxo-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate | 0.564 mmol, 175 mg | C(N)(=O)C=1NC(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H22N4O4
reactant | Phosphorus oxychloride | 0.569 mmol, 53 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 3.0 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 4-(4-cyano-2-oxo-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate | 29% yield | C(#N)C=1NC(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H20N4O3
